US04008136
Anthracene 1.472 g.
(8.3 mmol) and 500 mg. of photosensitizing resin were mixed in 100 ml. of chloroform and irradiated. After 148 cc. (6.6 mmol) of oxygen was absorbed the resin was filtered off, the solution was decolorised with charcoal and evaporated to dryness. The residue was fractionally recrystallized from chloroform to yield anthracene endoperoxide, mp 137°-143°. Rose bengal attached to IRA-400 and methylene blue attached to IRC-200 both gave the same results.

reactant | Rose bengal | C1=C2C(=C(C(=C1I)O)I)OC3=C(C(=C(C=C3C24C5=C(C(=C(C(=C5Cl)Cl)Cl)Cl)C(=O)O4)I)O)I | C20H4Cl4I4O5
reactant | methylene blue | CN(C)C=1C=CC2=C(C1)SC3=CC(=[N+](C)C)C=CC3=N2
product | Anthracene | C1=CC=CC2=CC3=CC=CC=C3C=C12 | C14H10
